US05093328
To a solution of (2S,4R)-1-benzyloxycarbonyl-2-iodomethyl-4-t-butyldimethylsilyloxypyrrolidine (100 g) in dry dimethylformamide (500 ml), dimethyl malonate (43.16 ml) and 28% (w/w) methanolic solution of sodium methoxide (60.77 g) were added, and the resultant mixture was stirred at room temperature for 2 days. The reaction mixture was neutralized with 1N hydrochloric acid, diluted with ethyl acetate, washed with water and dried over magnesium sulfate. Removal of the solvent gave (2R,4R)-1-benzyloxycarbonyl-2-(2,2-dimethoxycarbonylethyl)-4-t-butyldimethylsiloxypyrrolidine.

reactant | (2S,4R)-1-benzyloxycarbonyl-2-iodomethyl-4-t-butyldimethylsilyloxypyrrolidine | 100 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CI | C19H30INO3Si
reactant | sodium methoxide | 60.77 g | C[O-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | dimethyl malonate | 43.16 ml | C(CC(=O)OC)(=O)OC | C5H8O4
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,4R)-1-benzyloxycarbonyl-2-(2,2-dimethoxycarbonylethyl)-4-t-butyldimethylsiloxypyrrolidine | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CC(C(=O)OC)C(=O)OC | C24H37NO7Si
